US08431575B2
A mixture of (4-benzyloxy-phenyl)-acetic acid methyl ester (11.7 mmol, 3.0 g), trimethyl-trifluoromethyl-silane and cesium fluoride in THF may be stirred at room temperature for 2 h. Hydrochloride may be added upon consumption of ester as indicated by TLC. The mixture may be stirred further at room temperature until the intermediate disappears as indicated by TLC to provide 3-(4-benzyloxy-phenyl)-1,1,1-trifluoro-propan-2-one.

reactant | (4-benzyloxy-phenyl)-acetic acid methyl ester | 11.7 mmol, 3.0 g | COC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C16H16O3
reactant | trimethyl-trifluoromethyl-silane | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | cesium fluoride | [F-].[Cs+]
reactant | Hydrochloride | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-benzyloxy-phenyl)-1,1,1-trifluoro-propan-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(F)(F)F)=O | C16H13F3O2
